US08022218B2
(a). 4-(2-Amino-pyridin-3-ylmethoxy)-3-bromo-5-ethoxy-benzaldehyde
Mitsunobu reaction of 3-bromo-5-ethoxy-4-hydroxy benzaldehyde (490 mg) with (2-amino-pyridin-3-yl)-methanol (250 mg) was preformed according to the method described for example 21d. The residue was chromatographed on silica gel in dichloromethane/methanol=99/1 (v/v) as eluent. Yield: 500 mg. MS-ESI: [M+H]+=351/353.

reactant | 3-bromo-5-ethoxy-4-hydroxy benzaldehyde | 490 mg | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | (2-amino-pyridin-3-yl)-methanol | 250 mg | NC1=NC=CC=C1CO | C6H8N2O
product | 4-(2-Amino-pyridin-3-ylmethoxy)-3-bromo-5-ethoxy-benzaldehyde | NC1=NC=CC=C1COC1=C(C=C(C=O)C=C1OCC)Br | C15H15BrN2O3
